US07407691B2
116 g of 3-ethyl-3-hydroxymethyloxetane (Toa Gosei's trade name, OXT-101) was added to 500 ml of pyridine, and cooled to 0° C. with stirring. 190 g of p-toluenesulfonyl chloride divided into a few portions was added to it intermittently. Kept at 0° C., this was stirred for 5 hours, and then 1 L of ice-water was poured into the reaction mixture. This was extracted with 500 ml of diethyl ether. The diethyl ether layer was washed with 3% hydrochloric acid until its pH became acidic, and then washed with saturated sodium carbonate solution and water in this order, and thereafter dried with anhydrous magnesium sulfate. The solvent was evaporated away, and 243 g of 3-[(tosyloxy)methyl]-3-ethyloxetane was obtained.

reactant | 3-ethyl-3-hydroxymethyloxetane | 116 g | C(C)C1(COC1)CO | C6H12O2
reactant | p-toluenesulfonyl chloride | 190 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | pyridine | 500 ml | N1=CC=CC=C1 | C5H5N
product | 3-[(tosyloxy)methyl]-3-ethyloxetane | 243 g | S(=O)(=O)(C1=CC=C(C)C=C1)OCC1(COC1)CC | C13H18O4S
